US07488740B2
1. 4-(4-Trifluoromethyl-phenylamino)-7-(3-trifluoromethylpyridin-2-yl)-[1,8]naphthyridin-2-ol
Heat 4-chloro-2-methoxy-7-(3-trifluoromethyl-pyridin-2-yl)-[1,8]naphthyridine (600 mg, 1.8 mmol), 4-trifluoromethylaniline (322 mg, 2.0 mmol) and 2M hydrochloric acid in ether (1 mL, 2.0 mmol) in isopropanol (15 mL) at 80° C. for 16 hours. Cool the mixture and collect the precipitate by filtration. Partition the solid between ethyl acetate and saturated sodium bicarbonate solution. Separate the layers and extract the aqueous layer with further ethyl acetate. Wash the combined organic extracts with brine, dry (MgSO4) and evaporate to give the title compound.

reactant | 4-chloro-2-methoxy-7-(3-trifluoromethyl-pyridin-2-yl)-[1,8]naphthyridine | 1.8 mmol, 600 mg | ClC1=CC(=NC2=NC(=CC=C12)C1=NC=CC=C1C(F)(F)F)OC | C15H9ClF3N3O
reactant | 4-trifluoromethylaniline | 2.0 mmol, 322 mg | FC(C1=CC=C(N)C=C1)(F)F | C7H6F3N
reactant | hydrochloric acid | 2M | Cl | ClH
reactant | ether | 2.0 mmol, 1 mL | CCOCC | C4H10O
solvent | isopropanol | 15 mL | C(C)(C)O | C3H8O
product | 4-(4-Trifluoromethyl-phenylamino)-7-(3-trifluoromethylpyridin-2-yl)-[1,8]naphthyridin-2-ol | FC(C1=CC=C(C=C1)NC1=CC(=NC2=NC(=CC=C12)C1=NC=CC=C1C(F)(F)F)O)(F)F | C21H12F6N4O
